US06008230
A mixture of 3-acetyl-1,4-dihydro-8-nitro-4-oxoquinoline (500 mg) and phosphoryl chloride was heated at 115° C. for 15 minutes. After cooling, the mixture was poured into ice water and extracted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo to give 3-acetyl-4-chloro-8-nitroquinoline (485 mg).

reactant | 3-acetyl-1,4-dihydro-8-nitro-4-oxoquinoline | 500 mg | C(C)(=O)C1=CNC2=C(C=CC=C2C1=O)[N+](=O)[O-] | C11H8N2O4
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-acetyl-4-chloro-8-nitroquinoline | 485 mg | C(C)(=O)C=1C=NC2=C(C=CC=C2C1Cl)[N+](=O)[O-] | C11H7ClN2O3
